US07981903B2
A slurry of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (300 mg, 0.626 mmol) and 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine (155 mg, 0.626 mmol) in THF (50 mL) was heated at 70° C. for 20 h. The resulting mixture was allowed to cool to rt and was treated with a 2M MeNH2 solution in THF (10 mL). The reaction mixture was stirred at rt for 3 days, then concentrated onto Celite and purified by silica gel chromatography using 1-20% MeOH (containing 0.2% NH3)/CH2Cl2 to afford 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide (87 mg, 20%). ESIMS (M+H)+=685.18.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.626 mmol, 300 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine | 0.626 mmol, 155 mg | CN(C)CC(=O)N1CCCC2=CC(=C(C=C12)N)C | C14H21N3O
reactant | MeNH2 | 2M | CN | CH5N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluoro-N-methylbenzamide | 87 mg, 20% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)NC)C(=CC=C2)F)C)C | C35H37FN8O4S
